US05494908
3-[[2-(4-Morpholinyl)ethyl]methylamino]-1,2-benzisoxazol-6-yl methylcarbamate
To a stirred solution of 3-[[2-(4-morpholinyl)ethyl]methylamino]-1,2-benzisoxazol-6-ol (2 g) and copper(I)chloride (0.3 g) in EtOAc (60 ml) was added methyl isocyanate (0.5 g). After 3.5 hours thin layer chromatography (TLC) (silica gel, 10% MeOH/DCM) showed no starting material. The reaction was filtered through neutral alumina eluting with EtOAc (2 l) and the filtrate was concentrated in vacuo to yield 1.2 g of the product, m.p. 94°-95° C.

reactant | 3-[[2-(4-morpholinyl)ethyl]methylamino]-1,2-benzisoxazol-6-ol | 2 g | N1(CCOCC1)CCN(C1=NOC2=C1C=CC(=C2)O)C | C14H19N3O3
reactant | methyl isocyanate | 0.5 g | CN=C=O | C2H3NO
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | EtOAc | 60 ml | CCOC(=O)C | C4H8O2
catalyst | copper(I)chloride | 0.3 g | [Cu]Cl
product | 3-[[2-(4-Morpholinyl)ethyl]methylamino]-1,2-benzisoxazol-6-yl methylcarbamate | 1.2 g | CNC(OC1=CC2=C(C(=NO2)N(C)CCN2CCOCC2)C=C1)=O | C16H22N4O4
